US09120754B2
2,7-bis(3,5-dimethylpiperidin-1-ylsulfonyl)-9-(3-dimethylaminopropyl)imino-10-methyl-(9H,10H)-acridine (12-5)
A mixture of 2,7-bis(3,5-dimethylpiperidin-1-ylsulfonyl)-10-methylacridine-9(10H) thione (145 mg, 0.25 mmole), pyridine (5 mL) and dimethylaminopropylamine (0.125 mL, 1 mmole) was stirred at 100° C. for 4 hrs. Solvent was partially evaporated and reaction product was precipitated by addition of methanol. Precipitate was collected by filtration, washed with methanol and dried to give 137 mg (85%) of the title compound. MS 644 (MH+).

reactant | 2,7-bis(3,5-dimethylpiperidin-1-ylsulfonyl)-10-methylacridine-9(10H) thione | 0.25 mmole, 145 mg | CC1CN(CC(C1)C)S(=O)(=O)C1=CC=2C(C3=CC(=CC=C3N(C2C=C1)C)S(=O)(=O)N1CC(CC(C1)C)C)=S | C28H37N3O4S3
reactant | dimethylaminopropylamine | 1 mmole, 0.125 mL | CN(C)CCCN | C5H14N2
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 2,7-bis(3,5-dimethylpiperidin-1-ylsulfonyl)-9-(3-dimethylaminopropyl)imino-10-methyl-(9H,10H)-acridine | 137 mg, 85% | CC1CN(CC(C1)C)S(=O)(=O)C1=CC=2C(C3=CC(=CC=C3N(C2C=C1)C)S(=O)(=O)N1CC(CC(C1)C)C)=NCCCN(C)C | C33H49N5O4S2
